US05457106
i) Synthesis of 5-(3,5-di-tert-butyl-4-hydroxyphenyl)methylene-2,4-thiazolidinedione
To a solution of 12.5 g (107 mmol) of 2,4-thiazolidinedione and 25.0 g (107 mmol) of 3,5-di-tert-butyl-4-hydroxybenzaldehyde in 300 ml of ethanol, 1.05 ml (10.7 mmol) of piperidine was added, and the mixture was heated under reflux for 5 hours. After cooling, the precipitated crystals were filtered and washed with cooled ethanol to give 15.23 g of the desired compound (42.8% yield, pale yellow crystals).

reactant | 2,4-thiazolidinedione | 107 mmol, 12.5 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | 3,5-di-tert-butyl-4-hydroxybenzaldehyde | 107 mmol, 25.0 g | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | piperidine | 10.7 mmol, 1.05 ml | N1CCCCC1 | C5H11N
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 5-(3,5-di-tert-butyl-4-hydroxyphenyl)methylene-2,4-thiazolidinedione | 15.23 g, 42.8% yield | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=C1C(NC(S1)=O)=O | C18H23NO3S
